US06277877B1
5-Chloro-1H-indole-2-carboxylic acid [2-(4-hydroxy-piperidin-1-yl)-(1S)-(1H-imidazol-4-ylmethyl)-2-oxo-ethyl]-amide
(S)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-(1H-imidazol-4-yl)-propan-1-one hydrochloride (0.7 mmol) and 5-chloro-1H-indole-2-carboxylic acid (0.7 mmol) were coupled according to Procedure A (120 hour reaction time, acid wash omitted). The crude product was triturated twice with ether, with 1:1 ether-hexanes and the residue purified by chromatography on silica gel eluted with 5-20% ethanol in dichloromethane containing 0.5% ammonium hydroxide. Yield 232 mg, 81%; HPLC (40/60) 2.57 minutes (98%); PBMS 416/418 (MH+, 100%);

reactant | (S)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-(1H-imidazol-4-yl)-propan-1-one hydrochloride | 0.7 mmol | Cl.N[C@H](C(=O)N1CCC(CC1)O)CC=1N=CNC1
reactant | 5-chloro-1H-indole-2-carboxylic acid | 0.7 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | 5-Chloro-1H-indole-2-carboxylic acid [2-(4-hydroxy-piperidin-1-yl)-(1S)-(1H-imidazol-4-ylmethyl)-2-oxo-ethyl]-amide | OC1CCN(CC1)C([C@H](CC=1N=CNC1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C20H22ClN5O3
